US04581452
Thionyl chloride (11.5 ml; 158 mmoles) was added to α-trifluoromethylacrylic acid (19.7 g; 141 mmoles), and the mixture was heated under reflux for 22 hours. Distillation of the reaction mixture under atmospheric pressure gave 14.7 g (yield:66%) of α-trifluoromethylacryloyl chloride, B.p. 89°-90° C.

reactant | Thionyl chloride | 158 mmoles, 11.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | α-trifluoromethylacrylic acid | 141 mmoles, 19.7 g | FC(C(C(=O)O)=C)(F)F | C4H3F3O2
product | α-trifluoromethylacryloyl chloride | 14.7 g, yield:66% | FC(C(C(=O)Cl)=C)(F)F | C4H2ClF3O
